US04725610
4-[2-Hydroxy-2-(5-methyl-2-phenyl-4-oxazolyl)ethoxy]aniline (18.5 g) was dissolved in methanol (50 ml)-acetone (150 ml), and 47% aqueous HBr (41.0 g) was added to the solution. Then, a solution of NaNO2 (4.5 g) in water (10 ml) was added dropwise to the mixture at a temperature of not higher than 5° C. The whole was stirred at 5° C. for 15 minutes, and methyl acrylate (30.4 g) was added to the mixed solution, followed by warming at 38° C. Cuprous oxide (2.0 g) was added in small portions to the reaction solution with vigorous stirring, and stirring was continued until evolution of nitrogen gas stopped. After concentration, the residue was made basic with aqueous ammonia, and extracted with ethyl acetate. The ethyl acetate layer was washed with water, dried (MgSO4) concentrated to give methyl 2-bromo-3-{4-[2-hydroxy-2-(5-methyl-2-phenyl-4-oxazolyl)ethoxy] phenyl}propionate as a crude oily material (27.0 g, 98.5%). IR (Neat) cm-1 : 3300, 1735. NMR δ (ppm) in CDCl3 : 2.40(3H, s), 3.0(1H, broad), 3.11(1H, d.d, J=14 and 7 Hz), 3.39(1H, d.d, J=14 and 7 Hz), 3.68(3H, s), 4.0 to 4.5(3H, m), 5.05(1H, d.d, J=8 and 5 Hz), 6.0 to 7.2(4H, m), 7.4 (3H, m), 7.9(2H, m).

reactant | 4-[2-Hydroxy-2-(5-methyl-2-phenyl-4-oxazolyl)ethoxy]aniline | 18.5 g | OC(COC1=CC=C(N)C=C1)C=1N=C(OC1C)C1=CC=CC=C1 | C18H18N2O3
reactant | HBr | 41.0 g | Br | BrH
reactant | NaNO2 | 4.5 g | N(=O)[O-].[Na+]
reactant | methyl acrylate | 30.4 g | C(C=C)(=O)OC | C4H6O2
solvent | methanol | 50 ml | CO | CH4O
solvent | acetone | 150 ml | CC(=O)C | C3H6O
solvent | water | 10 ml | O | H2O
product | methyl 2-bromo-3-{4-[2-hydroxy-2-(5-methyl-2-phenyl-4-oxazolyl)ethoxy] phenyl}propionate | BrC(C(=O)OC)CC1=CC=C(C=C1)OCC(C=1N=C(OC1C)C1=CC=CC=C1)O | C22H22BrNO5
